US06924374B2
1-(4-Chloro-3-methanesulfonyl-phenyl)-piperazine
Beginning with 5-bromo-2-chloro-methanesulfonyl-benzene and piperazine, the title compound was recovered by the procedure described in Example 1. MS m/z (rel. intensity, 70 eV)) 274 (M+, 20), 234 (40), 232 (bp), 153 (9), 56 (12).

reactant | 5-bromo-2-chloro-methanesulfonyl-benzene | BrC=1C=CC(=C(C1)S(=O)(=O)C)Cl | C7H6BrClO2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(4-Chloro-3-methanesulfonyl-phenyl)-piperazine | ClC1=C(C=C(C=C1)N1CCNCC1)S(=O)(=O)C | C11H15ClN2O2S
